US08049013B2
2-(4-Chloro-phenyl)-5-{3-methoxy-4-[1-(3,3,3-trifluoro-propyl)-azetidin-3-yloxy]-phenyl}-5H-thiazolo[5,4-c]pyridin-4-one, hydrochloride salt
Add 3,3,3-trifluoropropanal (120 mg, 1.06 mmol) to a suspension of 5-[4-(azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-5H-thiazolo[5,4-c]pyridin-4-one (390 mg, 0.89 mmol) in MeOH (2.96 mL). Add acetic acid (0.254 mL, 4.43 mmol) and stir vigorously. Add sodium cyanoborohydride (146.6 mg, 2.22 mmol). Stir overnight at room temperature. Add saturated NaHCO3 (10 mL) and stir for 30 min. Extract the mixture with CH2Cl2 (2×10 mL). Combine the organic layer and wash with water (5 mL). Dry, filter, and concentrate the organic solution. Purify the crude material by flash chromatography, using 0-40% THF (1% NH3/MeOH) in heptane as eluent, to give a white solid. Redissolve in CHCl3 and add HCl/Et2O (0.32 mL). Filter the HCl salt to provide 37 mg (7%) of the title compound. ES/MS m/z 536.0 (35Cl) [M+1]+.

reactant | 3,3,3-trifluoropropanal | 1.06 mmol, 120 mg | FC(CC=O)(F)F | C3H3F3O
reactant | 5-[4-(azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-5H-thiazolo[5,4-c]pyridin-4-one | 0.89 mmol, 390 mg | N1CC(C1)OC1=C(C=C(C=C1)N1C(C2=C(C=C1)N=C(S2)C2=CC=C(C=C2)Cl)=O)OC | C22H18ClN3O3S
reactant | acetic acid | 4.43 mmol, 0.254 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 2.22 mmol, 146.6 mg | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
reactant | HCl Et2O | 0.32 mL | Cl.CCOCC
solvent | MeOH | 2.96 mL | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Chloro-phenyl)-5-{3-methoxy-4-[1-(3,3,3-trifluoro-propyl)-azetidin-3-yloxy]-phenyl}-5H-thiazolo[5,4-c]pyridin-4-one, hydrochloride salt | 37 mg, 7% | Cl.ClC1=CC=C(C=C1)C=1SC=2C(N(C=CC2N1)C1=CC(=C(C=C1)OC1CN(C1)CCC(F)(F)F)OC)=O | InChI=1S/C25H21ClF3N3O3S.ClH/c1-34-21-12-17(6-7-20(21)35-18-13-31(14-18)11-9-25(27,28)29)32-10-8-19-22(24(32)33)36-23(30-19)15-2-4-16(26)5-3-15;/h2-8,10,12,18H,9,11,13-14H2,1H3;1H
